US07179823B1
A mixture of 3-[1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionic acid (7.01 g), iodomethane (2.12 ml), potassium carbonate (4.70 g) and N,N-dimethylformamide (30 ml) was stirred at room temperature for 48 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate (6.51 g, yield: 90%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | 3-[1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionic acid | 7.01 g | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C2=CC=CC=C2)C=C1 | C26H24N2O3
reactant | iodomethane | 2.12 ml | IC | CH3I
reactant | potassium carbonate | 4.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-[1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate | 6.51 g, yield: 90% | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1 | C27H26N2O3
